US09085583B2
(±)-1-(1-bromoethyl)-4-fluorobenzene
A mixture of 1-ethyl-4-fluorobenzene (0.248 g, 2 mmol), NBS (0.35 g, 2 mmol) and benzoyl peroxide (0.14 g, 0.6 mmol) were dissolved in 20 mL CCl4, The mixture was stirred at 80° C. for 5 hours and then the reaction was conc. in vacuo and resulting oil was purified via silica gel chromatography (PE-EtOAC 5:1) to give the title compound (330 mg, 80%) as a yellow oil. LCMS 202 (M+H+).

reactant | 1-ethyl-4-fluorobenzene | 2 mmol, 0.248 g | C(C)C1=CC=C(C=C1)F | C8H9F
reactant | NBS | 2 mmol, 0.35 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.6 mmol, 0.14 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (±)-1-(1-bromoethyl)-4-fluorobenzene | 330 mg, 80% | BrC(C)C1=CC=C(C=C1)F | C8H8BrF
